US07585885B2
5-(Methyl-propylcarbamoyl)-isophthalic acid monoisopropyl ester
Stir a solution of 5-(methyl-propylcarbamoyl)-isophthalic acid 1-ethyl ester 3-isopropyl ester (149 mg, 0.4 mmol) in 0.2 N NaOH in 1:10 water:isopropanol (2.2 mL) overnight. Add 1 N lithium hydroxide (0.44 mL) and stir for 1 h at room temperature. Dilute with water and extract with dichloromethane. Acidify the aqueous with 5 N HCl, extract the aqueous with dichloromethane, dry (magnesium sulfate) and concentrate to give the title compound (79 mg, 56%).

reactant | 5-(methyl-propylcarbamoyl)-isophthalic acid 1-ethyl ester 3-isopropyl ester | 0.4 mmol, 149 mg | C(C)(C)OC(C=1C=C(C(=O)OCC)C=C(C1)C(N(CCC)C)=O)=O | C18H25NO5
reactant | isopropanol | 2.2 mL | C(C)(C)O | C3H8O
reactant | lithium hydroxide | 1 N, 0.44 mL | [OH-].[Li+]
solvent | NaOH | 0.2 N | [OH-].[Na+]
solvent | water | O | H2O
product | 5-(Methyl-propylcarbamoyl)-isophthalic acid monoisopropyl ester | 79 mg, 56% | C(C)(C)OC(C1=CC(C(=O)O)=CC(=C1)C(N(CCC)C)=O)=O | C16H21NO5
